US04696949
1,2-diphenyl-1-(4-benzyloxyphenyl)butane-1,4-diol (RR,SS; RS,SR)
The (RR,SS; RS,SR)-isomer mixture is prepared from 13.2 g of cinnamaldehyde and 28.8 g of 4-benzyloxybenzophenone according to the precedure described in Example 9. Recrystallization is performed from toluene. The yield is 32.5 g (77%) of a product having m.p. 109°-15° C. The product contains both isomer pairs (RR,SS: RS,SR 1:1).

reactant | cinnamaldehyde | 13.2 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | 4-benzyloxybenzophenone | 28.8 g | C(C1=CC=CC=C1)OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C20H16O2
product | 1,2-diphenyl-1-(4-benzyloxyphenyl)butane-1,4-diol | C1(=CC=CC=C1)C(C(CCO)C1=CC=CC=C1)(O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C29H28O3
